2120-07-08 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2120-7-7**] 09:24 AM
   routine MRSA screen
 URINE CULTURE - At [**2120-7-7**] 11:18 AM
   also U/A, eos, osmo
 ULTRASOUND - At [**2120-7-7**] 03:20 PM
   liver
 THORACENTESIS - At [**2120-7-7**] 06:00 PM
 PARACENTESIS - At [**2120-7-7**] 08:30 PM
 PARACENTESIS - At [**2120-7-7**] 11:47 PM
 THORACENTESIS - At [**2120-7-7**] 11:47 PM
   Allergies:
   Penicillins
   Unknown;
   Clindamycin
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-7-8**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 93 (80 - 99) bpm
   BP: 87/50(59) {59/30(41) - 109/75(79)} mmHg
   RR: 28 (17 - 36) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,797 mL
                                                                     66 mL
   PO:
             TF:
   IVF:
                                                                  1,150 mL
                                                                     66 mL
   Blood products:
                                                                    557 mL
   Total out:
                                                                    193 mL
                                                                    120 mL
   Urine:
                                                                    193 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,604 mL
                                                                    -54 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///19/
   Physical Examination
   GENERAL: NAD, intermittent moaning. Somnolent. No sensical answering to
   questions.
   HEENT: nc/at, +icterus, MMM, no op lesions
   CARDIAC: RR. Normal S1, S2. No m/r/g.
   LUNGS: CTA B anterior exam. Decreased BS at bases.
   ABDOMEN: NABS. softly distended, +fluid wave/+ascites, no guarding or
   rebound, non-tender.
   EXTREMITIES: No c/c/3+edema to abdomen, 2+ dorsalis pedis/ posterior
   tibial pulses. legs painful to touch.
   NEURO: AAOX1 (name/place =hospital), +asterixis, able to follow
   commands.
   Labs / Radiology
   126 K/uL
   9.8 g/dL
   102 mg/dL
   2.8 mg/dL
   19 mEq/L
   5.0 mEq/L
   41 mg/dL
   106 mEq/L
   139 mEq/L
   29.3 %
   12.3 K/uL
        [image002.jpg]
                             [**2120-7-8**]  03:16 AM
   WBC
   12.3
   Hct
   29.3
   Plt
   126
   Cr
   2.8
   Glucose
   102
   Other labs: PT / PTT / INR:22.8/46.4/2.2, Ca++:8.7 mg/dL, Mg++:2.4
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   This is a 66 year old female with a history of alcoholic hepatitis,
   ascites, encephalopathy and recurrent pleural effusion presenting for
   evaluation for liver evaluation, transfered to the MICU for worsening
   hypoxia.
   # Hypoxia: Most likely from large pleural effusion with left lobe
   collapse.  Currently hemodynamically stable on NRB.  Continue to
   monitor respiratory status closely, with low threshold to intubate if
   evidence of tiring.  Recent ABG [**Last Name (un) 1830**] adequate
   ventilation/oxygenation.  No evidence of pneumonia on Chest CT.
   - s/p thoracenteisis with 1.5 lt drained; transudative in nature
   - f/u cx
   #  ESLD:  Patient with marked encephalopathy and ascites.  Sent for
   evaluation of possible liver transplant.  Will consult hepatology team.
   -diagnostic para negative for sbp
   - f/u  AFP, anti-sm, mitochondrial, [**Doctor First Name **], HCV and HBV
   - continue rifaximin + lactulose
   - likely not canidate for liver transplant given recent drinking
   - given encephalopathy, not a canidate for TIPS
   - will hold percocet, tylenol, and ativan given encephalopathy
   #  Leukocytosis: No clear source of infection.  Patient has been
   afebrile.  Had received broad spectrum on admission.  Repeat CXR after
   [**Female First Name (un) 231**] to see if hidden PNA, para to look for SBP, and will send UA.
   Will hold off on further abx.
   # Renal failure: cre stable at 2.8. Dx includes prerenal or HRS.
   # Hypothyroidism:  markedly hypothyroid, unclear if taking sythroid.
   If so, will need to increase dose.
   # FEN: No IVF, replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin, scd's
   # Access: peripherals
   # Code: FULL CODE FOR NOW
   # Communication: Patients husband, HCP
   # Disposition: will reassess after [**Female First Name (un) 231**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-7-7**] 08:55 AM
   22 Gauge - [**2120-7-7**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-07-08 09:20:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, ESLD
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NASAL SWAB - At [**2120-7-7**] 09:24 AM
   routine MRSA screen
 URINE CULTURE - At [**2120-7-7**] 11:18 AM
   also U/A, eos, osmo
 ULTRASOUND - At [**2120-7-7**] 03:20 PM
   liver
 THORACENTESIS - At [**2120-7-7**] 06:00 PM
 PARACENTESIS - At [**2120-7-7**] 08:30 PM
 PARACENTESIS - At [**2120-7-7**] 11:47 PM
 THORACENTESIS - At [**2120-7-7**] 11:47 PM
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Clindamycin
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-7-8**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-7-8**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 91 (80 - 99) bpm
   BP: 91/49(59) {59/30(41) - 109/75(79)} mmHg
   RR: 26 (20 - 36) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,797 mL
                                                                    242 mL
   PO:
             TF:
   IVF:
                                                                  1,150 mL
                                                                     92 mL
   Blood products:
                                                                    557 mL
   Total out:
                                                                    193 mL
                                                                    148 mL
   Urine:
                                                                    193 mL
                                                                    148 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,604 mL
                                                                     94 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///19/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   126 K/uL
   102 mg/dL
   2.8 mg/dL
   19 mEq/L
   5.0 mEq/L
   41 mg/dL
   106 mEq/L
   139 mEq/L
   29.3 %
   12.3 K/uL
        [image002.jpg]
                             [**2120-7-8**]  03:16 AM
   WBC
   12.3
   Hct
   29.3
   Plt
   126
   Cr
   2.8
   Glucose
   102
   Other labs: PT / PTT / INR:22.8/46.4/2.2, Ca++:8.7 mg/dL, Mg++:2.4
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Hypoxemic resp failure
   -whiteout Lt lung resolved after removal of 1.6L pleural fluid
   - effusion transudative by labs presumed secondary to ascites
   -likely to reaccumulate
   -able to wean FiO2 down to NC this morning
   -feels much more comforable
   EtOH abuse
   -last drink w/i last six months per report
   -? SW consult
   ESLD
   -liver service evaluating patient
   -dx para with studies per recs.
   Encephalopathy
   -cont lactulose, rifaxamin
   Hypothyroidism
   -clarify if has been taking synthroid.  If yes, will need increased
   dose
    Coagulopathy
   -reverse with FFP for proc
    Remainder of plan as outlined in resident note.
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-7-7**] 08:55 AM
   22 Gauge - [**2120-7-7**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2120-07-09 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - SBP down to 70s with MAPs in 50s. Given SPA 25 g x2 and 1500 cc IVF
   without BP response. Venous lactate 1.4
   Allergies:
   Penicillins
   Unknown;
   Clindamycin
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-7-8**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-7-9**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.6
   HR: 82 (80 - 96) bpm
   BP: 77/46(52) {69/34(43) - 101/64(74)} mmHg
   RR: 21 (19 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,750 mL
                                                                    102 mL
   PO:
             TF:
   IVF:
                                                                  1,240 mL
                                                                     72 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                    311 mL
                                                                     78 mL
   Urine:
                                                                    311 mL
                                                                     78 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,439 mL
                                                                     24 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///16/
   Physical Examination
   GENERAL: NAD, intermittent moaning. Somnolent. No sensical answering to
   questions.
   HEENT: nc/at, +icterus, MMM, no op lesions
   CARDIAC: RR. Normal S1, S2. No m/r/g.
   LUNGS: CTA B anterior exam. Decreased BS at bases.
   ABDOMEN: NABS. softly distended, +fluid wave/+ascites, no guarding or
   rebound, non-tender.
   EXTREMITIES: No c/c/3+edema to abdomen, 2+ dorsalis pedis/ posterior
   tibial pulses. legs painful to touch.
   NEURO: AAOX1 (name/place =hospital), +asterixis, able to follow
   commands.
   Labs / Radiology
   125 K/uL
   9.2 g/dL
   114 mg/dL
   2.5 mg/dL
   16 mEq/L
   4.5 mEq/L
   37 mg/dL
   108 mEq/L
   140 mEq/L
   27.9 %
   9.8 K/uL
        [image002.jpg]
                             [**2120-7-8**]  03:16 AM
                             [**2120-7-9**]  04:13 AM
   WBC
   12.3
   9.8
   Hct
   29.3
   27.9
   Plt
   126
   125
   Cr
   2.8
   2.5
   Glucose
   102
   114
   Other labs: PT / PTT / INR:24.7/46.4/2.4, Lactic Acid:1.4 mmol/L,
   Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   This is a 66 year old female with a history of alcoholic hepatitis,
   ascites, encephalopathy and recurrent pleural effusion presenting for
   evaluation for liver evaluation, transfered to the MICU for worsening
   hypoxia.
   # Hypoxia: Most likely from large pleural effusion with left lobe
   collapse.  Currently hemodynamically stable on NRB.  Continue to
   monitor respiratory status closely, with low threshold to intubate if
   evidence of tiring.  Recent ABG [**Last Name (un) 1830**] adequate
   ventilation/oxygenation.  No evidence of pneumonia on Chest CT.
   - s/p thoracenteisis with 1.5 lt drained; transudative in nature
   - f/u cx
   #  ESLD:  Patient with marked encephalopathy and ascites.  Sent for
   evaluation of possible liver transplant.  Will consult hepatology team.
   -diagnostic para negative for sbp
   - f/u  AFP, anti-sm, mitochondrial, [**Doctor First Name **], HCV and HBV
   - continue rifaximin + lactulose
   - likely not canidate for liver transplant given recent drinking
   - given encephalopathy, not a canidate for TIPS
   - will hold percocet, tylenol, and ativan given encephalopathy
   #  Leukocytosis: No clear source of infection.  Patient has been
   afebrile.  Had received broad spectrum on admission.  Repeat CXR after
   [**Female First Name (un) 231**] to see if hidden PNA, para to look for SBP, and will send UA.
   Will hold off on further abx.
   # Renal failure: cre stable at 2.8. Dx includes prerenal or HRS.
   # Hypothyroidism:  markedly hypothyroid, unclear if taking sythroid.
   If so, will need to increase dose.
   # FEN: No IVF, replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin, scd's
   # Access: peripherals
   # Code: FULL CODE FOR NOW
   # Communication: Patients husband, HCP
   # Disposition: will reassess after [**Female First Name (un) 231**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-7-7**] 08:55 AM
   22 Gauge - [**2120-7-7**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-07-10 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**7-9**]
   - family meeting, now dni/dnr
   - no thoracentesis performed
   - got haldol iv for agitation overnight
   Allergies:
   Penicillins
   Unknown;
   Clindamycin
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-7-9**] 10:00 PM
   Haloperidol (Haldol) - [**2120-7-10**] 02:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-7-10**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.1
   HR: 86 (83 - 93) bpm
   BP: 79/45(53) {67/35(44) - 105/58(69)} mmHg
   RR: 23 (18 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,923 mL
                                                                     72 mL
   PO:
             TF:
                                                                     23 mL
   IVF:
                                                                  1,490 mL
                                                                     72 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                    348 mL
                                                                    442 mL
   Urine:
                                                                    148 mL
                                                                     42 mL
   NG:
                                                                    200 mL
   Stool:
   400 mL
   Drains:
   Balance:
                                                                  1,575 mL
                                                                   -370 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///17/
   Physical Examination
   GENERAL: NAD, intermittent moaning. Somnolent. No sensical answering to
   questions.
   HEENT: nc/at, +icterus, MMM, no op lesions
   CARDIAC: RR. Normal S1, S2. No m/r/g.
   LUNGS: CTA B anterior exam. Decreased BS at bases.
   ABDOMEN: NABS. softly distended, +fluid wave/+ascites, no guarding or
   rebound, non-tender.
   EXTREMITIES: No c/c/3+edema to abdomen, 2+ dorsalis pedis/ posterior
   tibial pulses. legs painful to touch.
   NEURO: AAOX1 (name/place =hospital), +asterixis, able to follow
   commands.
   Labs / Radiology
   153 K/uL
   8.9 g/dL
   130 mg/dL
   3.2 mg/dL
   17 mEq/L
   6.6 mEq/L
   36 mg/dL
   110 mEq/L
   141 mEq/L
   26.9 %
   12.1 K/uL
        [image002.jpg]
                             [**2120-7-8**]  03:16 AM
                             [**2120-7-9**]  04:13 AM
                             [**2120-7-9**]  03:35 PM
                             [**2120-7-10**]  04:05 AM
   WBC
   12.3
   9.8
   12.1
   Hct
   29.3
   27.9
   26.9
   Plt
   126
   125
   153
   Cr
   2.8
   2.5
   2.7
   3.2
   Glucose
   102
   114
   148
   130
   Other labs: PT / PTT / INR:25.4/45.3/2.5, ALT / AST:27/139, Alk Phos /
   T Bili:114/6.7, Lactic Acid:2.9 mmol/L, LDH:218 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   This is a 66 year old female with a history of alcoholic hepatitis,
   ascites, encephalopathy and recurrent pleural effusion presenting for
   evaluation for liver evaluation, transfered to the MICU for worsening
   hypoxia.
   # Hypoxia: Most likely from large pleural effusion with left lobe
   collapse.  Oxygenation improved and remains stable but CXR with
   reacumulation of fluid.
   - s/p thoracenteisis with 1.5 lt drained; transudative in nature
   - cx NGTD
   - if respiratory compromise consider repeat [**Female First Name (un) 231**] and pleurex cath if
   family/pt desire
   #  ESLD:  Patient with marked encephalopathy and ascites.  Sent for
   evaluation of possible liver transplant.  Hepatology team following.
   -diagnostic para negative for sbp
   - cx NGTD
   - continue rifaximin + lactulose
   - consider thx para
   # Renal failure: cre stable at 3.2.  HRS.
   - octreotide and midodrine
   - elevated K: spurious [**3-18**] hemolysis
   # FEN: No IVF, replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin, scd's
   # Access: peripherals
   # Code: DNR DNI
   # Communication: Patients husband, HCP
   # Disposition: will reassess after [**Female First Name (un) 231**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2120-7-10**] 04:28 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-07-11 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   family meeting: CMO
   Allergies:
   Penicillins
   Unknown;
   Clindamycin
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2120-7-10**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-7-11**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.2
C (95.4
   HR: 79 (76 - 98) bpm
   BP: 66/32(40) {63/32(39) - 86/50(58)} mmHg
   RR: 11 (10 - 29) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    272 mL
                                                                     95 mL
   PO:
             TF:
   IVF:
                                                                    272 mL
                                                                     95 mL
   Blood products:
   Total out:
                                                                    482 mL
                                                                     12 mL
   Urine:
                                                                     82 mL
                                                                     12 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                   -210 mL
                                                                     83 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 90%
   ABG: ////
   Physical Examination
   GENERAL: NAD, intermittent moaning. Somnolent.. Comfortable in bed with
   husband at bedside
   [**Name (NI) 1017**]: +icterus
   CARDIAC: RR. Normal S1, S2. No m/r/g.
   LUNGS: CTA B anterior exam. Decreased BS at bases.
   ABDOMEN: NABS. softly distended, +fluid wave/+ascites, no guarding or
   rebound, non-tender.
   EXTREMITIES: No c/c/3+edema to abdomen, 2+ dorsalis pedis/ posterior
   tibial pulses. legs painful to touch.
   Labs / Radiology
   153 K/uL
   8.9 g/dL
   130 mg/dL
   3.2 mg/dL
   17 mEq/L
   4.6 mEq/L
   36 mg/dL
   110 mEq/L
   141 mEq/L
   28.4 %
   12.1 K/uL
        [image002.jpg]
                             [**2120-7-8**]  03:16 AM
                             [**2120-7-9**]  04:13 AM
                             [**2120-7-9**]  03:35 PM
                             [**2120-7-10**]  04:05 AM
                             [**2120-7-10**]  09:09 AM
   WBC
   12.3
   9.8
   12.1
   Hct
   29.3
   27.9
   26.9
   28.4
   Plt
   126
   125
   153
   Cr
   2.8
   2.5
   2.7
   3.2
   Glucose
   102
   114
   148
   130
   Other labs: PT / PTT / INR:25.4/45.3/2.5, ALT / AST:27/139, Alk Phos /
   T Bili:114/6.7, Lactic Acid:2.9 mmol/L, LDH:218 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   This is a 66 year old female with a history of alcoholic hepatitis,
   ascites, encephalopathy and recurrent pleural effusion presenting for
   evaluation for liver evaluation, transfered to the MICU for worsening
   hypoxia.
   # ESLD, HRS, hepatic hydrothorax:  CMO
   - dc non palliative medications
   - morphine ggt
   - call out to ETS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2120-7-10**] 04:28 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition: